US04743614
A solution of (2S,3R)-2-[[(2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2 (4-imidazolyl)ethyl]amino]butyric acid (720 mg) and 30% hydrogen bromide in acetic acid (20 ml) was sitrred for 3 hours at room temperature and the mixture was poured into ice-water (40 ml). The aqueous solution was washed with ether and subjected to a column of Dowex 50W x 8 (H+, 15 ml). The column was washed with water and the elution was carried out with 2.8% aqueous ammonia. The object fractions were collected and evaporated in vacuo. The residue was dissolved in water and lyophilized to give (2S,3R)-2-[[(2S)-2,6-diaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (399 mg) as a pale yellow powder.

reactant | (2S,3R)-2-[[(2S)-6-benzyloxycarbonylamino-2-t-butoxycarbonylaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2 (4-imidazolyl)ethyl]amino]butyric acid | 720 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)NC(=O)OC(C)(C)C | C29H42N6O9
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (2S,3R)-2-[[(2S)-2,6-diaminohexanoyl]amino]-3-[[(1S)-1-carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 399 mg | N[C@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)CCCCN | C16H28N6O5
